US09382216B2
Step-1: Ethyl 2-(4-benzylmorpholin-2-yl)acetate
2-(Benzylamino)ethanol (19.05 ml, 132 mmol) and triethylamine (18.44 ml, 132 mmol) was added to water (150 ml) and the resulting mixture was heated to reflux temperature. (E)-Ethyl 4-bromobut-2-enoate (18.24 ml, 132 mmol) was added dropwise for 10 min The resulting mixture was further maintained at reflux temperature for 5 h. The reaction mixture was cooled to 25° C. and added NaOH (5.29 g, 132 mmol) after that the solvent was removed by distillation under reduced pressure to give orange oil. Ethyl acetate (150 mL) was added and the resulting solution was washed with water (2×50 mL). Ethyl acetate was distilled off under reduced pressure to give crude compound (15 g). This crude compound was purified by flash chromatography (Biotage) using eluent 20% ethyl acetate in hexane to yield 13 g of pure title compound as colorless viscous oil. m/z 264.08.

reactant | 2-(Benzylamino)ethanol | 132 mmol, 19.05 ml | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | triethylamine | 132 mmol, 18.44 ml | C(C)N(CC)CC | C6H15N
reactant | (E)-Ethyl 4-bromobut-2-enoate | 132 mmol, 18.24 ml | BrC/C=C/C(=O)OCC | C6H9BrO2
reactant | NaOH | 132 mmol, 5.29 g | [OH-].[Na+]
solvent | Ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 150 ml | O | H2O
product | Ethyl 2-(4-benzylmorpholin-2-yl)acetate | 13 g | C(C1=CC=CC=C1)N1CC(OCC1)CC(=O)OCC | C15H21NO3
